US04242507
In 1 N aqueous sodium hydroxide (50 ml) is dissolved 1-hydroxy-1,2,3-benzotriazole (5 g) and thereto is added ether (25 ml). To the solution is added benzylsulfonyl chloride (8 g) with stirring under ice-cooling. The mixture is stirred at the same temperature for 3 hours. The reaction mixture is extracted with ethyl acetate. The extract is washed with a saturated aqueous sodium hydrogen carbonate and water in order and dried over anhydrous magnesium sulfate. After drying, the solvent is distilled off and the oily residue is allowed to stand. The resulting crystals are recrystallized from benzene-petroleum ether to give 1-benzylsulfonyloxy-1,2,3-benzotriazole (5.0 g), melting point: 65°-67° C.

reactant | 1-hydroxy-1,2,3-benzotriazole | 5 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ether | 25 ml | CCOCC | C4H10O
reactant | benzylsulfonyl chloride | 8 g | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | sodium hydroxide | 1 N, 50 ml | [OH-].[Na+]
product | 1-benzylsulfonyloxy-1,2,3-benzotriazole | 5.0 g | C(C1=CC=CC=C1)S(=O)(=O)ON1N=NC2=C1C=CC=C2 | C13H11N3O3S
